US04163108
To a solution of non-8-ynoic acid (nD25 1.4529, m.p. 20°-2°; 30.8 g, 0.2 mol) in tetrahydrofuran (100 ml) was added a 1.45 M solution (275 ml) of ethylmagnesium bromide in tetrahydrofuran during 30 minutes at 0°. The resulting mixture was stirred for 21/2 hours, after which cuprous cyanide (720 mg, 4 mmol) was added and stirring was continued for 10 minutes. A solution of 1-bromododeca-2,5-diyne (Struyk et al., loc.cit., b.p. 78°-80°/0.001 mm Hg, nD25 1.5055; 36.2 g, 0.15 mol) in tetrahydrofuran (75 ml) was then added during 10 minutes, and the stirred mixture heated to boiling and boiled under reflux for 15 hours: at the end of the first 4 hours another portion of cuprous cyanide (360 mg) was added. After refluxing was completed the bulk of the solvent present was distilled off under reduced pressure and to the cooled residue were added ether (100 ml) and aqueous 2N sulphuric acid. The mixture was thoroughly shaken, the ether layer which formed on standing was separated off and the aqueous layer extracted with ether; the combined ether layers were washed with saturated aqueous ammonium chloride solution, then with water, dried with anhydrous sodium sulphate and evaporated. The residue was dissolved in a small quantity of light petroleum and the solution chromatographed on a column (30 cm length and 2.2 cm diameter) of silica gel using as eluant mixtures of light petroleum and ether commencing with a proportion by volume of 95:5 and proceeding with increasing proportions of ether, with a final proportion of 40:60. The eluted fractions found to contain acid were combined and evaporated: the residue was crystallised from a mixture of light petroleum and ether (85:15 by volume) at -5° to give heneicosa-8,11,14-triynoic acid (22.7 g, 48%), m.p. 57°-8°; infrared absorption peaks at 1690 (--COOH) and 1309 cm-1 (--CH2C≡C--). The acid was converted by reaction with an ether solution of diazomethane to its methyl ester which was submitted to GLC and shown to be of 99.5% purity; mass spectrum parent peak m/e=328.

reactant | non-8-ynoic acid | 0.2 mol, 30.8 g | C(CCCCCCC#C)(=O)O | C9H14O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 1-bromododeca-2,5-diyne | BrCC#CCC#CCCCCCC | C12H17Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | heneicosa-8,11,14-triynoic acid | 22.7 g, 48% | C(CCCCCCC#CCC#CCC#CCCCCCC)(=O)O | C21H30O2
